US07838675B2
N-(tert-butyl)-5-[({2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}amino)sulfonyl]-2-furamide
To a solution of ethyl (2R)-2-({6-[({5-[(tert-butylamino)carbonyl]-2-furyl}sulfonyl)amino]-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)propanoate (the product of step iii) (0.25 g) in THF (10 mL) was added a solution of lithium borohydride (0.6 mL, 2.0M in hexanes) dropwise at 0° C. The mixture was warmed to room temperature and stirred for 18 h. After cooling to 0° C., 1N HCl (20 mL) was added slowly, and the mixture extracted with EtOAc (3×20 mL). The combined organic layers were dried (MgSO4), filtered and evaporated to dryness in vacuo. The resulting crude oil was purified by reverse phase HPLC (75% to 5% gradient of 0.2% aqueous trifluoroacetic acid in acetonitrile as eluent) to give the title compound as a white solid. Yield: 90 mg.

reactant | ethyl (2R)-2-({6-[({5-[(tert-butylamino)carbonyl]-2-furyl}sulfonyl)amino]-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)propanoate | C(C)(C)(C)NC(=O)C1=CC=C(O1)S(=O)(=O)NC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O[C@@H](C(=O)OCC)C | C25H28F2N4O7S2
reactant | lithium borohydride | 2.0M, 0.6 mL | [BH4-].[Li+]
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(tert-butyl)-5-[({2-[(2,3-difluorobenzyl)thio]-6-[(1R)-2-hydroxy-1-methylethoxy]pyrimidin-4-yl}amino)sulfonyl]-2-furamide | C(C)(C)(C)NC(=O)C=1OC(=CC1)S(=O)(=O)NC1=NC(=NC(=C1)O[C@@H](CO)C)SCC1=C(C(=CC=C1)F)F | C23H26F2N4O6S2
